US08138377B2
L. Synthesis of N,N-dimethyl-1-(3,4-dichlorophenyl)bicyclo[3.1.0]hexan-2-amine hydrochloride
A mixture of 1-(3,4-dichlorophenyl)bicyclo[3.1.0]hexan-2-one (170 mg, 0.70 mmol) in dichloromethane (6 mL) was cooled to 0° C. and dimethylamine (2M solution in THF, 1.1 mL, 2.2 mmol) and TiCl4 (66 mg; 0.35 mmol; 0.5 eq) were added sequentially. After stirring at 0° C. for 45 min, the mixture was warmed to reflux and was stirred overnight. The reaction was then treated with sodium triacetoxyborohydride (339 mg, 1.6 mmol) at room temperature. The reaction mixture was stirred for 5 h, and then the reaction mixture was quenched with water (10 mL). The layers were filtered, and the pH was adjusted to 9 using saturated NaHCO3. The layers were then separated, and the aqueous layer was re-extracted with CH2Cl2 (2×), dried over sodium sulfate, filtered and concentrated in vacuo. The oily crude residue was converted to HCl salt using HCl/diethyl ether to provide the title compound as a beige solid (81 mg; 38%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.36-1.42 (m, 1 H) 1.51-1.59 (t, 1H) 1.91-2.20 (m, 4H) 2.22-2.34 (m, 1H) 2.62 (d, 3H) 2.74 (d, 3H) 4.03-4.13 (m, 1H) 7.15 (d, 1 H) 7.37-7.46 (m, 2 H) 12.07-12.28 (bs, 1 H). 13C NMR (100 MHz, CHLOROFORM-d) d ppm 12.10 (s, 1 C) 25.73 (s, 1 C) 26.34 (s, 1 C) 31.69 (s, 1 C) 32.70 (s, 1 C) 43.47 (s, 1 C) 44.49 (s, 1 C) 74.93 (s, 1 C) 127.47 (s, 1 C) 130.12 (s, 1 C) 131.31 (s, 1 C) 131.47 (s, 1C) 133.44 (s, 1 C) 142.35 (s, 1 C). MS (M+1) 270.1, HPLC Purity 99% (AUC).

reactant | 1-(3,4-dichlorophenyl)bicyclo[3.1.0]hexan-2-one | 0.70 mmol, 170 mg | ClC=1C=C(C=CC1Cl)C12C(CCC2C1)=O | C12H10Cl2O
reactant | dimethylamine | 2.2 mmol, 2M, 1.1 mL | CNC | C2H7N
reactant | sodium triacetoxyborohydride | 1.6 mmol, 339 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
catalyst | TiCl4 | 0.35 mmol, 66 mg, 0.5 eq | Cl[Ti](Cl)(Cl)Cl
product | N,N-dimethyl-1-(3,4-dichlorophenyl)bicyclo[3.1.0]hexan-2-amine hydrochloride | 81 mg, 38% | Cl.CN(C1C2(CC2CC1)C1=CC(=C(C=C1)Cl)Cl)C | InChI=1S/C14H17Cl2N.ClH/c1-17(2)13-6-4-10-8-14(10,13)9-3-5-11(15)12(16)7-9;/h3,5,7,10,13H,4,6,8H2,1-2H3;1H
